US04709027
2-[4-[4-(6-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]-5,6-dihydro-5-methyl-2H-1,2,6-thiadiazin-3(4H)-one 1,1 dioxide
The title compound is prepared by adding to a stirred solution of 2 g (0.006 mol) of 2-(4-bromobutyl)-5,6-dihydro-5-methyl-2H-1,2,6-thiadiazin-3(4H)-one 1,1-dioxide in 50 mL of dimethylformamide, 4 mL of triethylamine and 1.41 g (0.006 mol) of 1-(6-chloro-2-pyrazinyl)piperazine hydrochloride.

reactant | 2-(4-bromobutyl)-5,6-dihydro-5-methyl-2H-1,2,6-thiadiazin-3(4H)-one 1,1-dioxide | 0.006 mol, 2 g | BrCCCCN1S(NC(CC1=O)C)(=O)=O | C8H15BrN2O3S
reactant | 1-(6-chloro-2-pyrazinyl)piperazine hydrochloride | 0.006 mol, 1.41 g | Cl.ClC1=CN=CC(=N1)N1CCNCC1
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
product | 2-[4-[4-(6-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]-5,6-dihydro-5-methyl-2H-1,2,6-thiadiazin-3(4H)-one 1,1 dioxide | ClC1=CN=CC(=N1)N1CCN(CC1)CCCCN1S(NC(CC1=O)C)(=O)=O | C16H25ClN6O3S
